US07820802B2
To a solution obtained by adding 1,2-hydrazinedicarboxylic acid bis(2-methoxyethyl) ester (200 mg, 0.85 mmol) and toluene (2 mL) to a 10 mL flask, followed by cooling with an ice bath, was added dropwise a 5% sodium hypochlorite solution (1.39 g, 0.85 mmol), and the reaction was allowed to proceed for one hour. After the reaction, the solution was washed with water (1 mL,×2), and dehumidified with anhydrous magnesium sulfate, followed by concentration to dryness. The resulting solid was recrystallized with toluene (1 mL) and hexane (5 mL), to give azodicarboxylic acid bis(2-methoxyethyl) ester as a pale yellow crystal (73 mg, yield: 37%).

reactant | 1,2-hydrazinedicarboxylic acid bis(2-methoxyethyl) ester | 0.85 mmol, 200 mg | COCCOC(=O)NNC(=O)OCCOC | C8H16N2O6
reactant | sodium hypochlorite | 0.85 mmol, 1.39 g | Cl[O-].[Na+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | azodicarboxylic acid bis(2-methoxyethyl) ester | 73 mg, yield: 37% | COCCOC(=O)N=NC(=O)OCCOC | C8H14N2O6
